US04409220
(b) 2-Amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine
A mixture of 1.6 gm (5.2 mmols) of diethyl 2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine-3,7-dicarboxylate and 20 ml of 80% sulfuric acid was heated for 30 minutes at 180° C. Thereafter, the mixture was cooled, made alkaline with an aqueous sodium carbonate solution, and extracted with chloroform for 24 hours with a perforator. The chloroform extract was chromatographed in silicagel with chloroform/methanol/concentrated ammonia (24:12:1) as the mobile phase.

reactant | diethyl 2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine-3,7-dicarboxylate | 5.2 mmols, 1.6 gm | NC=1C(=NC2=C(CCN(CC2)C(=O)OCC)N1)C(=O)OCC | C14H20N4O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | NC=1C=NC2=C(CCNCC2)N1 | C8H12N4
